US08030438B2
(17) Synthesis of 3-(butoxyphosphoryl)-5-(tributylstannyl)-thiophene
In THF, 8.48 g (9.90 mmols) of 3-(dibutoxyphosphoryl)-2,5-bis(tributylstannyl)thiophene was dissolved and cooled down to −78° C. Commercially available n-butyl lithium (1.59 M hexane solution, 10.9 mmols) was slowly dropped, followed by stirring for 1 hour at a standing temperature. Thereafter, a disodium hydrogen phosphate/sodium dihydrogen phosphate buffer solution, adjusted to pH=7, was added, followed by extraction with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a silica gel column (gradiated from ethyl acetate:hexane=1:10 with ethyl acetate:hexane=1:2) to obtain the specified substance in the form of a transparent oil at a yield of 4.64 g (yield: 83%). The thus obtained substance was used as it is for reaction in Example 12(18).

reactant | 3-(dibutoxyphosphoryl)-2,5-bis(tributylstannyl)thiophene | 9.90 mmols, 8.48 g | C(CCC)OP(=O)(OCCCC)C1=C(SC(=C1)[Sn](CCCC)(CCCC)CCCC)[Sn](CCCC)(CCCC)CCCC
reactant | n-butyl lithium | 10.9 mmols, 1.59 M | C(CCC)[Li]
reactant | disodium hydrogen phosphate sodium dihydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+].P(=O)(O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-(butoxyphosphoryl)-5-(tributylstannyl)-thiophene | yield: 83% | C(CCC)OP(=O)=C1CSC(=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C8H12O2PS.3C4H9.Sn/c1-2-3-5-10-11(9)8-4-6-12-7-8;3*1-3-4-2;/h4H,2-3,5,7H2,1H3;3*1,3-4H2,2H3;
